US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanamide
To a solution of 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine (200 mg, 0.565 mmol, prepared in analogy to the one in Example 2-1) in N,N-dimethylformamide (6 mL) was added a solution of 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanoyl chloride (670 mg, 2.3 mmol) in dichloromethane (4 mL) followed by N,N-diisopropylethylamine (0.3 mL). The resulting mixture was stirred at room temperature for 1 hour and heated at 85° C. for additional 2 hours. After being cooled to room temperature, the resulting mixture was evaporated in vacuo. The residue was diluted with water and extracted with ethyl acetate (20 mL×2). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography to afford 230 mg of the product as a solid (yield was 66%).

reactant | 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N)C)=O | C19H19N3O2S
reactant | 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanoyl chloride | 2.3 mmol, 670 mg | O=C1N(C(C2=CC=CC=C12)=O)C(CC(=O)Cl)C(F)(F)F | C12H7ClF3NO3
reactant | N,N-diisopropylethylamine | 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanamide | 230 mg, yield was 66% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(CC(C(F)(F)F)N2C(C1=CC=CC=C1C2=O)=O)=O)C)=O | C31H25F3N4O5S
